*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.70e-05[uF]/250[V]
* Murata P/N :GCM21A5C2E270JX01
* Property : C = 2.70e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E270JX01 Port1 Port2
C01 Port1 N01 2.70e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 1.64e-10
R03 N02 N03 2.07e-01
C04 N03 N04 2.14e-09
R04 N03 N04 1.17e+01
L05 N04 N05 1.56e-11
R05 N04 N05 1.98e-01
C06 N05 Port2 7.49e-13
L06 N05 Port2 4.78e-10
R06 N05 Port2 1.27e+02
.ENDS GCM21A5C2E270JX01
